US04110450
A solution of 6-dimethylamino-4-ethoxycarbonyl-pyrimidine (19.5 g) and ethyl propionate (11.2 g) in 1,2-dimethoxyethane (75 cc) is added to a suspension of sodium hydride (9.6 g) (50% in mineral oil) in 1,2-dimethoxyethane (25 cc), and the reaction mixture is refluxed. Refluxing is maintained for a further 30 minutes. The solvent is evaporated, and then the residue is taken up in diethyl ether (350 cc) and 4N hydrochloric acid (70 cc). After decanting, the aqueous phase is again extracted with diethyl ether (450 cc). The combined organic phases are washed with an 8% (w/v) sodium bicarbonate solution (120 cc). They are dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure to give ethyl 3-(6-dimethylaminopyrimidin-4-yl)-2-methyl-3-oxopropionate (15.2 g).

reactant | 6-dimethylamino-4-ethoxycarbonyl-pyrimidine | 19.5 g | CN(C1=CC(=NC=N1)C(=O)OCC)C | C9H13N3O2
reactant | ethyl propionate | 11.2 g | C(CC)(=O)OCC | C5H10O2
reactant | sodium hydride | 9.6 g | [H-].[Na+]
solvent | 1,2-dimethoxyethane | 75 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 25 cc | COCCOC | C4H10O2
product | ethyl 3-(6-dimethylaminopyrimidin-4-yl)-2-methyl-3-oxopropionate | 15.2 g | CN(C1=CC(=NC=N1)C(C(C(=O)OCC)C)=O)C | C12H17N3O3
